US07465808B2
C. [5-(3,4-Dichlorophenyl)-1-(4-methoxyphenyl)-1H-pyrazol-3-yl]-methanol
To a stirred solution of 5-(3,4-dichloro-phenyl)-1-(4-methoxy-phenyl)-1H-pyrazole-3-carboxylic acid ethyl ester (55.7 g, 0.140 mol) in THF (150 mL) at −78° C. under N2 was slowly added a 1.0 M solution of diisobutylaluminum hydride (DIBAL-H) (350 mL, 0.35 mol) over 45 min. The solution was allowed to stir for 20 min then warmed to rt over 90 min. The mixture was then cooled to 0° C., and a saturated solution of potassium sodium tartrate (300 mL) and EtOAc (400 mL) was added. The slurry mixture was stirred overnight whereupon both layers became clear. The organic layer was extracted with EtOAc (2×75 mL), dried with Na2SO4, filtered and concentrated. The crude product was dried under vacuum to recover 46.8 g (96%) of the title compound. This was used in the next step without further purification. HPLC: Rt=9.16 (Method E). MS (ES+): mass calculated for C17H14Cl2N2O2, 349.21; m/z found 371.1 [M+Na]+. 1H NMR (400 MHz, CDCl3): 7.39 (d, J=2.1 Hz, 1H), 7.34 (d, J=3.6 Hz, 1H), 7.20-7.09 (m, 2H), 6.97 (dd, J=8.36, 2.1 Hz,1H), 6.91-6.79 (m, 2H), 6.43 (s, 1H), 4.69 (s, 2H), 3.74 (s, 3H).

reactant | 5-(3,4-dichloro-phenyl)-1-(4-methoxy-phenyl)-1H-pyrazole-3-carboxylic acid ethyl ester | 0.140 mol, 55.7 g | C(C)OC(=O)C1=NN(C(=C1)C1=CC(=C(C=C1)Cl)Cl)C1=CC=C(C=C1)OC | C19H16Cl2N2O3
reactant | diisobutylaluminum hydride | 0.35 mol, 350 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | potassium sodium tartrate | 300 mL | C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[K+]
reactant | EtOAc | 400 mL | CCOC(=O)C | C4H8O2
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | [5-(3,4-Dichlorophenyl)-1-(4-methoxyphenyl)-1H-pyrazol-3-yl]-methanol | ClC=1C=C(C=CC1Cl)C1=CC(=NN1C1=CC=C(C=C1)OC)CO | C17H14Cl2N2O2
